US08071807B2
{3-[2-tert-Butylsulfanylmethyl-4-(2,2-dimethyl-propionylamino)-phenoxy]-4-methoxy-phenyl}-acetic acid (0.200 g, 0.44 mmol), (2R,3R,4R,5S,6R)-3,4,5,6-tetrahydroxy-tetrahydro-pyran-2-carboxylic acid benzyl ester (0.200 g, 0.7 mmol; prepared according to the procedure described in Tetrahedron 2007, 63, 7596), HATU (0.266 g, 0.7 mmol), and N-methylmorpholine (0.1 mL, 0.7 mmol) were combined in MeCN, and the reaction was stirred overnight at room temperature. The mixture was concentrated, and the residue was purified by preparative HPLC to give (2R,3R,4R,5 S,6S)-6-(2-{3-[2-tert-butylsulfanylmethyl-4-(2,2-dimethyl-propionylamino)-phenoxy]-4-methoxy-phenyl}-acetoxy)-3,4,5-trihydroxy-tetrahydro-pyran-2-carboxylic acid benzyl ester, which was subsequently treated with palladium hydroxide on carbon and stirred under an atmosphere of H2 overnight. The crude material was purified by preparative HPLC to give (2R,3R,4R,5 S,6S)-6-(2-{3-[2-tert-Butylsulfanylmethyl-4-(2,2-dimethyl-propionylamino)-phenoxy]-4-methoxy-phenyl}-acetoxy)-3,4,5-trihydroxy-tetrahydro-pyran-2-carboxylic acid.

reactant | {3-[2-tert-Butylsulfanylmethyl-4-(2,2-dimethyl-propionylamino)-phenoxy]-4-methoxy-phenyl}-acetic acid | 0.44 mmol, 0.200 g | C(C)(C)(C)SCC1=C(OC=2C=C(C=CC2OC)CC(=O)O)C=CC(=C1)NC(C(C)(C)C)=O | C25H33NO5S
reactant | (2R,3R,4R,5S,6R)-3,4,5,6-tetrahydroxy-tetrahydro-pyran-2-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)[C@@H]1O[C@H]([C@H]([C@@H]([C@H]1O)O)O)O | C13H16O7
reactant | HATU | 0.7 mmol, 0.266 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N-methylmorpholine | 0.7 mmol, 0.1 mL | CN1CCOCC1 | C5H11NO
solvent | MeCN | CC#N | C2H3N
product | (2R,3R,4R,5 S,6S)-6-(2-{3-[2-tert-butylsulfanylmethyl-4-(2,2-dimethyl-propionylamino)-phenoxy]-4-methoxy-phenyl}-acetoxy)-3,4,5-trihydroxy-tetrahydro-pyran-2-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)[C@@H]1O[C@H]([C@H]([C@@H]([C@H]1O)O)O)OC(CC1=CC(=C(C=C1)OC)OC1=C(C=C(C=C1)NC(C(C)(C)C)=O)CSC(C)(C)C)=O | C38H47NO11S
